US09023858B2
C) tert-butyl [2-({4-oxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-3,4-dihydrothieno[3,4-d]pyrimidin-2-yl}sulfanyl)ethyl]carbamate
2-Thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2,3-dihydrothieno[3,4-d]pyrimidin-4(1H)-one (1.59 g) was dissolved in N,N-dimethylformamide (20 ml), sodium hydride (60% in oil, 0.25 g) and tert-butyl(2-bromoethyl)carbamate (1.49 g) were added successively thereto under ice-cooling, and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was poured into saturated aqueous ammonium chloride solution (30 ml), and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane) to give the title compound (2.12 g) as a white solid.

reactant | 2-Thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2,3-dihydrothieno[3,4-d]pyrimidin-4(1H)-one | 1.59 g | S=C1N(C(C=2C(N1)=CSC2)=O)C2=CC=C(C=C2)OCC(F)(F)F | C14H9F3N2O2S2
reactant | sodium hydride | 0.25 g | [H-].[Na+]
reactant | tert-butyl(2-bromoethyl)carbamate | 1.49 g | C(C)(C)(C)OC(NCCBr)=O | C7H14BrNO2
reactant | ammonium chloride | 30 ml | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | tert-butyl [2-({4-oxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-3,4-dihydrothieno[3,4-d]pyrimidin-2-yl}sulfanyl)ethyl]carbamate | 2.12 g | O=C1C=2C(N=C(N1C1=CC=C(C=C1)OCC(F)(F)F)SCCNC(OC(C)(C)C)=O)=CSC2 | C21H22F3N3O4S2
